US07592373B2
3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-(4-diethylaminomethylphenyl)amide
Prepared analogously to Example 2.3.f. from 4-diethylaminomethylphenylamine and (2-chloro-4-trifluoromethylphenyl)propynoic acid. Yield: 72 mg (59% of theory); C21H20ClF3N2O (M=408.85); calc.: molecular ion peak (M+H)+: 409/411; found: molecular ion peak (M+H)+: 409/411; Rf value: 0.35 (silica gel, dichloromethane/methanol (9:1)).

reactant | 4-diethylaminomethylphenylamine | C(C)N(CC)CC1=CC=C(C=C1)N | C11H18N2
reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-(4-diethylaminomethylphenyl)amide | C(C)N(CC)CC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C21H20ClF3N2O
